US04129656
(b) 5-Chloro-6-amino-1-indanone
114 Grams (2.01 moles) of iron powder are added to a solution of 134 g (0.64 mole) of 5-chloro-6-nitro-1-indanone in 1600 ml of ethanol, then 63.5 ml of concentrated hydrochloric acid are added dropwise, and the reaction mixture is boiled for 4 hours. The precipitate is filtered off with suction, and the product is precipitated from the hot filtrate by the addition of water, then suction-filtered and washed with water. The residue of the reaction mixture is boiled with chloroform, the filtrate is dried with Na2SO4 and is then concentrated to dryness, after which process a further amount of the product is obtained. The substance melts at a temperature of from 198° to 200° C., and after recyrstallization from ethanol the melting point is in the range of from 203° to 205° C.

reactant | 5-chloro-6-nitro-1-indanone | 0.64 mole, 134 g | ClC=1C=C2CCC(C2=CC1[N+](=O)[O-])=O | C9H6ClNO3
reactant | hydrochloric acid | 63.5 ml | Cl | ClH
solvent | ethanol | 1600 ml | C(C)O | C2H6O
catalyst | iron | 2.01 moles | [Fe] | Fe
product | 5-Chloro-6-amino-1-indanone | ClC=1C=C2CCC(C2=CC1N)=O | C9H8ClNO
